US04117167
To a stirred solution of 2,5-dichloroaniline (1.6 g.) in dry dimethylformamide (10 ml.) potassium hydroxide (1.0 g.) was added in small portions over 5 minutes, and stirring continued for a further 15 minutes. To the resultant solution was added 2-chloro-3,5-dinitrobenzotrifluoride (2.7 g.) in small portions over 5 minutes. When the addition was complete the mixture was stirred for 30 minutes at 20° C, after which concentrated hydrochloric acid was added to acidify the mixture. Industrial methylated spirit (10 ml.) was then added, the mixture stirred for further 15 minutes and then poured into water (150 ml.) The solid precipitate was collected by filtration, washed with water and dried to yield 2(2,5-dichloroanilino)-3,5-dinitrobenzotrifluoride, melting point 125°-126° C.

reactant | 2,5-dichloroaniline | 1.6 g | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 2.7 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2(2,5-dichloroanilino)-3,5-dinitrobenzotrifluoride | ClC1=C(NC2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F)C=C(C=C1)Cl | C13H6Cl2F3N3O4
